US05629431
Bis(benzylaminomethyl)phosphinic acid hydrochloride
12 g (74 mmol) of bis(chloromethyl)phosphinic acid are added slowly to 80 g of benzylamine at room temperature while stirring, during which the temperature increases slightly. The mixture is then heated at 115° C. for 24 h. Excess benzylamine is removed by distillation in vacuo, and the white residue is dissolved in 150 ml of distilled water, filtered and mixed with 30 mi of concentrated HCl and stirred at room temperature for 1 h. The white precipitate is filtered off with suction, washed with water and dried over P2O5. Yield: 20 g (79%); m.p.: 254° C.

reactant | bis(chloromethyl)phosphinic acid | 74 mmol, 12 g | ClCP(O)(=O)CCl | C2H5Cl2O2P
reactant | benzylamine | 80 g | C(C1=CC=CC=C1)N | C7H9N
product | Bis(benzylaminomethyl)phosphinic acid hydrochloride | Cl.C(C1=CC=CC=C1)NCP(O)(=O)CNCC1=CC=CC=C1 | InChI=1S/C16H21N2O2P.ClH/c19-21(20,13-17-11-15-7-3-1-4-8-15)14-18-12-16-9-5-2-6-10-16;/h1-10,17-18H,11-14H2,(H,19,20);1H
